Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / metformin
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ woman with PMH of CHF (likely 
systolic based on Atrius notes, but last TTE ___ with EF 58%, 
LVH), CKD, IDDM, HLD, HTN, obesity, and previous CVA who 
presents with worsening dyspnea and fluid-filled blister on the 
anterior surface of the right leg x1 day. 

Patient was previously admitted to ___ for HFrEF 
exacerbation in ___. Per review of summary in Atrius records, 
the patient was treated with IV diuresis and eventually 
discharged to rehab with PO furosemide 80mg and Carvedilol 25mg 
BID. Cr at discharge was 4.8. Most recent Cr in ___ was 4.9 
with eGFR of 9. Her dry weight (per the patient) is 
approximately 209 lb. 

The patient reports that over the past several months, she had 
been doing well. She had unlimited functional capacity based on 
her daily needs, and was able to walk up one flight of stairs 
without becoming short of breath. However, starting a few weeks 
ago, she began developing exertional dyspnea which has 
progressively worsened, until she was getting dyspneic to the 
point that she needed to rest after walking a few feet. She also 
noted increasing orthopnea and swellin gin her legs bilaterally. 
She denies chages in diet (has been avoiding takeout and only 
eats food that she cooks) and has been compliant with her 
medications. She denies episodes of chest pain or palpitations. 

In the ED, initial vitals were T 99.2F, HR 82, BP 195/85, RR 16, 
and O2 sat 99% RA. Labs were notable for CBC with Hgb 9.5, chem 
panel with K 6.0 (subsequently normalizing to 4.7), CO2 20, BUN 
63, Cr 6.4, troponin 0.05 -> 0.07 -> 0.06 with MB 2 -> 3 -> 3, 
and BNP ___. EKG was obtained and demonstrated NSR with 
ventricular rate ~75 BPM and left axis deviation, first degree 
AV block, otherwise normal intervals, and TWI in I, aVL, and V6. 
CXR demonstrated cardiomegaly and increased pulmonary vascular 
markings. Patient was managed overnight in ER, given furosemide 
80mg, and then 120mg (1600 ___, along with carvedilol 25mg BID, 
isosorbide mononitrate 60mg, amlodipine 10mg, before being 
admitted to Cardiology for further management.

 
Past Medical History:
HFpEF
CKD Stage V (not yet on HD)
Stroke
DM2, insulin dependent, complicated by nephropathy, retinopathy, 
neuropathy
HTN
Empty sella syndrome
Surgical debridement of non-healing ulcers at ___ (___)
 
Social History:
___
Family History:
HTN, father had ___ disease, sister had stroke
 
 
Physical Exam:
ADMISSION EXAM:
___ 0628 Temp: 98.6 PO BP: 179/69 R Lying HR: 80 RR: 17 O2 
sat: 91% O2 delivery: Ra 
Appeared comfortable and was alert. 
Lungs notable for bibasilar crackles. 
Cor-S1/S2 regular.
Abd soft/NT
Extr-1+-2+ edema. 4 cm protruberant skin "blister" right shin

DISCHARGE EXAM:
VITALS: Reviewed in POE, notably on room air
GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, MMM  
NECK: JVP at mid neck 
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: Clear to posterior auscultation, no rales
GI: Abdomen soft, nondistended, nontender 
EXTREMITIES: 1+ ___ edema bilaterally, 7x5cm blister on anterior
RLE covered with bandage, no bleeding or purulence
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
DERM: Warm and well perfused, no excoriations or lesions, no
rashes (aside from blister as above)
 
Pertinent Results:
ADMISSION LABS:
___ 09:20PM BLOOD WBC-6.6 RBC-3.47* Hgb-9.5* Hct-31.7* 
MCV-91 MCH-27.4 MCHC-30.0* RDW-14.6 RDWSD-48.5* Plt ___
___ 09:20PM BLOOD Neuts-65.4 ___ Monos-8.2 Eos-3.5 
Baso-0.5 Im ___ AbsNeut-4.31 AbsLymp-1.46 AbsMono-0.54 
AbsEos-0.23 AbsBaso-0.03
___ 09:20PM BLOOD Glucose-97 UreaN-63* Creat-6.4*# Na-141 
K-6.0* Cl-105 HCO3-20* AnGap-16
___ 11:26PM BLOOD K-5.6*
___ 09:20PM BLOOD Calcium-8.5 Phos-5.1* Mg-2.2
___ 09:20PM BLOOD CK-MB-2 cTropnT-0.05* proBNP-___* 
CK(CPK)-209*
___ 12:00PM BLOOD CK-MB-2 cTropnT-0.10*
___ 05:05PM BLOOD CK-MB-2 cTropnT-0.06*

INTERVAL LABS:
___ 06:10AM BLOOD Iron-35 calTIBC-200* Ferritn-232* 
TRF-154*
___ 06:10AM BLOOD PTH-670*
___ 06:10AM BLOOD 25VitD-20*

IMAGING & STUDIES:
___ (PORTABLE AP)
Moderate severe cardiac enlargement is noted.  There is 
pulmonary vascular congestion without overt edema.  No focal 
consolidation or significant effusion.  No acute osseous 
abnormalities.

___ U.S.
There is no hydronephrosis, stones, or masses bilaterally. 
Normal cortical echogenicity and corticomedullary 
differentiation are seen bilaterally.  The renal cortex appear 
mildly echogenic bilaterally, consistent with medical renal 
disease.
Right kidney: 7.8
Left kidney: 10.7 
The bladder is only minimally distended and can not be fully 
assessed on the current study.

___ Echo
The left atrial volume index is SEVERELY increased. The right 
atrium is moderately enlarged. The
estimated right atrial pressure is ___ mmHg. There is SEVERE 
symmetric left ventricular hypertrophy
with a normal cavity size. There is normal regional and global 
left ventricular systolic function.
Quantitative 3D volumetric left ventricular ejection fraction is 
76 %. Left ventricular cardiac index is
low normal (2.0-2.5 L/min/m2). There is no resting left 
ventricular outflow tract gradient. No ventricular
septal defect is seen. Normal right ventricular cavity size with 
normal free wall motion. The aortic sinus
diameter is normal for gender with mildly dilated ascending 
aorta. The aortic arch is mildly dilated.
There is no evidence for an aortic arch coarctation. The aortic 
valve leaflets (3) appear structurally
normal. There is no aortic valve stenosis. There is trace aortic 
regurgitation. The mitral valve leaflets
appear structurally normal with no mitral valve prolapse. There 
is mild [1+] mitral regurgitation. The
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. There is
mild pulmonary artery systolic hypertension. There is a very 
small circumferential pericardial effusion.
There are no 2D or Doppler echocardiographic evidence of 
tamponade.

IMPRESSION: Marked symmetric left ventricular hypertrophy with 
normal cavity size and regional/
global biventricular systolic function. Mild mitral 
regurgitation with normal valve morphology. Biatrial
enlargement. Mildly dilated thoracic aorta.

Compared with the prior TTE ___ , the severity of mitral 
regurgitation is now slightly
increased and mild pulmonary artery systolic hypertension and a 
very small circumferential pericardial
effusion are now identified.

DISCHARGE LABS:
___ 08:15AM BLOOD WBC-5.1 RBC-3.17* Hgb-8.4* Hct-27.5* 
MCV-87 MCH-26.5 MCHC-30.5* RDW-14.5 RDWSD-46.5* Plt ___
___ 08:15AM BLOOD Plt ___
___ 10:03AM BLOOD Glucose-161* UreaN-68* Creat-6.4* Na-140 
K-4.6 Cl-101 HCO3-24 AnGap-15
___ 10:03AM BLOOD Calcium-9.1 Phos-4.4 Mg-2.2
 
Brief Hospital Course:
HOSPITAL COURSE
=============== 
Ms. ___ is a ___ woman with PMH of HFpEF, CKD 5, 
IDDM, HTN, and previous CVA who presented with worsening dyspnea 
and fluid-filled blister on the anterior surface of the right 
leg x 1 day. 

ACTIVE ISSUES
=============
# HFpEF exacerbation: TTE this admission with EF 76% with severe 
LVH. No clear inciting factor for exacerbation, most likely 
etiology worsening renal function leading to volume overload. 
Atrius cardiology followed inpatient. Diuresed well with 120 IV 
Lasix BID from admission weigh 232lb to discharge weight 213.4 
lb. Switched to Torsemide 40mg QD on discharge. Will follow up 
with ___ cardiology given insurance change.

# HTN: Quite hypertensive to SBP > 180s inpatient. Increased 
isosorbide and added hydralazine with some improvement, however 
still average SBP 140-160s on discharge. Continued home 
amlodipine. Decreased dose of carvedilol given # sinus pause 
below.

# ___ on CKD: Patient with worsening renal function, from 
baseline ~4.8 to 6.4 on admission. Nephrology consulted, felt 
secondary to worsening diabetic nephropathy with some component 
of cardiorenal physiology driving ___ as well. Renal US without 
hydronephrosis. Vascular mapping done as part of pre-HD 
planning, will follow up with ___ nephrology and transplant 
surgery as an outpatient to arrange HD access.

# Sinus pause / nausea / hypotension: Occurred on ___, seemed 
consistent with vagal episodes inciting Mobitz 1 block and 
transient relative hypotension. Troponin and CKMB stable x 2 
checks. Decreased beta blockade (cardevilol 25 -> 12.5 BID) with 
no recurrence of symptoms.

# ___ blister: Likely in setting of HFpEF exacerbation. Appeared 
to be transudative surface layer blister. Wound nurse consulted 
___, followed wound care recs.

# DM: Dose reduced insulin glargine from 10U to 8U QHS.

TRANSITIONAL ISSUES
===================
- Discharge weight: 213.4 lb
- Dischage Cr: 6.4

[] Medication changes
- Carvedilol 25 mg PO BID decreased to 12.5 BID
- Glargine 10 Units Bedtime decreased to 8 Units
- Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
increased to 120mg PO DAILY
- Started HydrALAZINE 75 mg PO/NG TID 
- Started Torsemide 40mg PO DAILY

[] PCP: ___ weight, check BMP, adjust torsemide dose based 
off these and physical exam
[] Renal: given that patient vaccine for TB, must decide whether 
she should still get PPD as part of pre-HD planning or whether 
Quantiferon Gold more appropriate 
[] Renal: patient would likely benefit from starting Epo
[] Cardiology & renal: consider addition BP agents given SBP 
frequently > 160 inpatient despite multiple agents

# CODE: Full code (confirmed) 
# CONTACT: HCP: ___ (Granddaughter, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
2. Carvedilol 25 mg PO BID 
3. amLODIPine 10 mg PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
5. Furosemide 80 mg PO EVERY OTHER DAY 
6. Doxazosin 4 mg PO DAILY 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Loratadine 10 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Glargine 10 Units Bedtime

 
Discharge Medications:
1.  HydrALAZINE 75 mg PO TID 
RX *hydralazine 50 mg 1.5 tablet(s) by mouth Three time a day 
Disp #*135 Tablet Refills:*0 
2.  Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
RX *isosorbide mononitrate 120 mg 1 tablet(s) by mouth Daily 
Disp #*30 Tablet Refills:*0 
3.  Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*0 
4.  Carvedilol 12.5 mg PO BID 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
5.  Glargine 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
6.  amLODIPine 10 mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Calcitriol 0.25 mcg PO 3X/WEEK (___)  
9.  Doxazosin 4 mg PO DAILY  
10.  Ferrous Sulfate 325 mg PO DAILY  
11.  Loratadine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic heart failure with preserved ejection fraction
Acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to the hospital with fluid overload (a "heart 
failure exacerbation"). We gave you high doses of IV Lasix to 
remove this fluid, and your breathing improved. You were 
discharged on a stronger medicine similar to Lasix called 
Torsemide, which should prevent fluid from building up in the 
future.

Your kidney function has been getting worse over the last few 
years, and it's getting to the point where you may need dialysis 
soon. The kidney doctors saw ___ in the hospital, and you will 
see them again in clinic to start planning for this process.

Your insurance changed recently, and you will be seeing a new 
group of doctors at ___, not at ___. Your insurance 
records are incomplete. You will need to call out registration 
department at ___ BEFORE your first appointment. Our 
Financial Assistance office number is ___ if you need 
further help with your follow up appointment payment coverage.

Please weigh yourself every day. If your weight goes up or down 
by over 3lb in one day or 5lb in 2 days, call your primary care 
doctor, as you may need to change your medication dosage.

You should also keep an eye on your urine. If it seems like you 
are urinating much less there would be concern your kidneys 
aren't working, and you should either call your new primary care 
doctor or go to the ER.

It was a privilege to care for you in the hospital, and we wish 
you all the best.

Sincerely,

Your ___ Team
 
Followup Instructions:
___